US05326497
A mixture of 12 g of 2-[4-(5-hydroxy-1-pentenyl)phenyl]-5-(ethoxy)pyrimidine, 2 g of palladium on active charcoal (10 w/w %) and 150 ml of ethyl acetate was hydrogenated at normal pressure and room temperature until one molar equivalent of hydrogen had been taken up. The inorganic material was filtered off and the filtrate was concentrated. The residue was purified by chromatography on silica gel with hexane/ethyl acetate (vol. 8:2). Recrystallization from ethyl alcohol gave 8.5 g of pure 2-[4-(5-hydroxy-1-pentyl)phenyl]-5-(ethoxy)pyrimidine.

reactant | 2-[4-(5-hydroxy-1-pentenyl)phenyl]-5-(ethoxy)pyrimidine | 12 g | OCCCC=CC1=CC=C(C=C1)C1=NC=C(C=N1)OCC | C17H20N2O2
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 2 g | [Pd] | Pd
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-[4-(5-hydroxy-1-pentyl)phenyl]-5-(ethoxy)pyrimidine | 8.5 g | OCCCCCC1=CC=C(C=C1)C1=NC=C(C=N1)OCC | C17H22N2O2
